US07208495B2
4-(4-methoxyphenyl)-1-(2,2,4,6,7-pentamethyl-3-(4-phenylpiperidino)-2,3-dihydro-1-benzofuran-5-yl)piperazine
Using 4-phenylpiperidine and 5-(4-(4-methoxyphenyl)piperazin-1-yl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-ol obtained in Reference Example 18, the title compound was synthesized in the same manner as in Example 57. Yield 45%.

reactant | 4-phenylpiperidine | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
reactant | 5-(4-(4-methoxyphenyl)piperazin-1-yl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-3-ol | COC1=CC=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(C(C(O2)(C)C)O)C1C)C)C | C24H32N2O3
product | 4-(4-methoxyphenyl)-1-(2,2,4,6,7-pentamethyl-3-(4-phenylpiperidino)-2,3-dihydro-1-benzofuran-5-yl)piperazine | Yield 45% | COC1=CC=C(C=C1)N1CCN(CC1)C=1C(=C(C2=C(C(C(O2)(C)C)N2CCC(CC2)C2=CC=CC=C2)C1C)C)C | C35H45N3O2
